data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,469,"COC1=CC2=C(C=C1)[C:1]1(C)[C:2]([O-:3])(CC2)C(C)C(C)[CH:4]1[O:5]S(C)(=O)=O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2835,"CC(=O)O[B-:1](OC(C)=O)(OC(C)=O)[H:2].CC(=O)[O-].CN1CC[C:3](=[N+:4]2CCN(C3=CC=C(C4=CC5=C(C=C4)N(S(=O)(=O)C4=CC=CC=C4)C4=C5C(Cl)=CC=N4)C=C3)CC2)CC1.O.[Na+]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1068,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CC1=CC=CC=C1.OCCOC(C1=CC(F)=CC=C1Br)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,648,"CC[O+:1](CC)[H:2].C[N:3](C)C1OC2=C(C(O)=CC(O)=C2)C(=[O+][B-](F)(F)F)C1C1=CC=C(O)C=C1.O=P(Cl)(Cl)Cl.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7291,"CC(C)[CH2][Al-:1]([CH2]C(C)C)([CH2:2][C:3](C)(C)[H:4])[O+:5]=[C:6]1CCCCC1|((1, 2), 3);((3, 4), 6);((6, 5), 5)"
train,pmechdb_split_0,0,4732,"C[CH+:1][C:2]1(C)CCC[CH2:3]1|((2, 3), 1)"
train,pmechdb_split_0,0,9253,"CC[O+:1](S(C)(C)OS(=O)(=O)[O-])[H:2].C[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7636,"CCCC[N:1](CCCC)CCCC.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,228,"C[C:1]([H:2])=[C:3](C)[Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8582,"COC(C1=CC=CC=C1)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2069,"C1=CC=C(C2(C[CH2:1][Br:2])C3=CC=CC=C3OC2=[O:3])C=C1.CO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7398,"COC(=O)C(CC1=CNC2=CC=CC=C12)NC(=O)C1=C([NH+:1](C([O-])(Cl)C(C)NC(=O)OCC2C3=CC=CC=C3C3=C2C=CC=C3)[H:2])C=CC=C1.O.O=C([O][Na])[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5867,"CCCC=C(C)[CH:1]=[NH+:2]C(C)(C)C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8777,"Br[B:1](Br)Br.CCCC1=CC([O:2]C)=C(C)C=C1|(2, 1)"
train,pmechdb_split_0,0,5018,"C=[O+][Si-:1](C)(C)(C)[C:2](C)(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,9801,"CCC1CC[C+:1](C)C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,4267,"CC1=CC=C(S(=O)(=O)[O:1][CH:2](C)[C:3](C)(C2=CC=CC=C2)[H:4])C=C1.C[O-:5].[Na+]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10190,"CO[C:1](OC)([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6435,"[H:1][AlH3-:2].[Li][N+:3](OC)=[CH:4]C|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7094,"CCOC(=O)C(C)(C(I)I)[C:1](OCC)=[O:2].[K+].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,984,"C[CH:1]([Cl:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4166,"C1=CC=CC=C1.C1CC[C:1](=[O:2])C1.C1C[NH:3]CCO1.CC1=CC=C(S(=O)(=O)O)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8180,"CC(C)[N-:1]C(C)C.CC[C:2](C)([N+](=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8916,"CC(=O)CC[CH:1]([OH2+:2])[O:3]CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1777,"CCCCC1[C:1]([CH:2](C2=CC=CC=C2)[OH+:3][B-](F)(F)F)([OH:4])[CH2:5]1|(4, 1);((1, 5), 2);((2, 3), 3)"
train,pmechdb_split_0,0,3618,"CNC(=O)CCC(OC)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7092,"CCCC[N+](CCCC)(CCCC)CCCC.CC[O-:1].C[Si](C)(C)[O:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,227,"C1=CC=C(C[NH2+]C2([O-:1])CCCCCCC2)C=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8326,"CC(=O)C1=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3309,"CC[O+:1](C)[K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,9765,"C=C(C)CC[OH:1].C[C+:2](C)CCO|(1, 2)"
train,pmechdb_split_0,0,6018,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCC(C2=CC=CC=C2)CC1C1CCCCC1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3492,"C=CC[CH2:1][OH2+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6666,"CC[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4725,"N#CC[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6378,"BrCCC[S:1][H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9324,"CC[CH:1](CC=O)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5508,"CC(=O)[O-:1].CC(=O)[O:2][N:3]=[C:4](C)[H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,5822,"CC(=O)O.CC(=O)[O-:1].COC1=C(C)C=C(O[CH:2]([H:3])[C:4](OC(C)=O)=[O:5])C(C(C)=O)=C1.[Na+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9043,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C1=C2C=CC=CC(OCC)=C2C=C1C1=C(C)[O+:1]=[C:2](C2=CC=C(OC)C=C2)[CH:3]1[H:4].CN(C)C=O.[OH2:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2120,"CC#[C-:1].CCN(CC)[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1670,"CC(=O)C1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6810,"CC(C)[Si](C#C[CH:1]([Si](C(C)C)(C(C)C)C(C)C)[H:2])(C(C)C)C(C)C.CCC[CH2:3][Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3300,"N#CC1=CC2=C(C=C1)[C:1](Br)([H:2])[CH+:3]C=C2.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1923,"[H:1][AlH3-:2].[Li][O+:3]=[C:4](CCC)CCC|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1194,"C[N:1](C=O)[Cl:2].C[S:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1470,"CO[CH:1]=[O+:2]C.C[SH:3]|(3, 1);((1, 2), 2)"
